reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:5]=[N:6][H:7].[O:1]=[C:2]1[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11]>>[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],43.25014686556891
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:10].[C:2]([O:3][H:11])[C:4]([C:5]#[C:6][H:14])([H:12])[H:13],87.1012755618936
[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([C:7]([H:13])([H:14])[H:15])[o:6]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],86.2602238221069
[C:1]([C:2](/[N:3]=[C:4](/[C:5](=[N+:6]=[C-:7][H:15])[H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],3.321849996093505
[C:1]([C:2]([C:3]([C:5]([C:4]([H:13])([H:14])[H:15])=[O:6])([H:12])[H:16])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],85.23203023292943
[C:1]([C@@:2]([O:3][H:10])([C:4][O:5][H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([O:3][H:10])([C:4](=[O:5])[H:11])[H:9])([H:6])([H:7])[H:8],27.749034543305186
[C:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[O+:4]=[C-:5][N:6]([H:10])[H:11])([H:7])([H:8])[H:9],72.9540058404028
[C:1]([C:2](=[O+:3][C-:4]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[C:5](#[N:6])[H:11]>>[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],2.1172022119843774
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3]([H:11])([H:12])[H:13])[H:10])([H:7])[H:8].[C:4]1([H:14])([H:15])[C:5]([H:9])=[N:6]1,109.512488052626
[C:1]([O:2][H:12])([H:8])([H:9])[H:10].[C:3](=[N:4][H:11])=[N:5][C:6](=[O:7])[H:13]>>[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10],32.5621228254087
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:7](=[C:6])[H:17])([H:8])([H:9])[H:10],60.0686106029721
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[O:5])[H:13])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:4](=[O+:5][C-:3]([H:10])[H:12])[H:13])([H:9])[H:11])([H:6])([H:7])[H:8],107.02227559247
[C:1]([C@@:2]1([H:12])[C:3](=[C:5]=[C:6]([C:7]([H:13])([H:14])[H:15])[H:11])[O:4]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],60.2561120414308
[O:1]=[C:2]([C:3]([N:5]([C:4][H:8])[H:10])([H:7])[H:9])[H:6]>>[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],43.52724289008779
[O:1]([C:2]([C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:7])[H:8])[H:6]>>[C-:4]#[O+:5].[C:2](=[C:3]([H:9])[H:10])([H:7])[H:8].[O:1]([H:6])[H:11],71.2295034070907
[O:1]([C:2]([C:3]([C:4]([O-:5])=[C+:6][H:12])([H:9])[H:10])([H:8])[H:11])[H:7]>>[O:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4](=[O:5])[C:6]1([H:11])[H:12])[H:7],19.968840284369286
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])[H:10].[C:6](#[N:7])[H:9],100.05980640378
[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[C:5]([N:4]([H:13])[H:14])=[N:6]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([N:4]([H:13])[H:14])[C:5]#[N:6])([H:7])([H:8])[H:9],64.83192683378911
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[N:3](=[C:4](\[C:5]([C:6]#[C:7][H:14])([H:12])[H:13])[H:10])\[H:9].[O:1]=[C:2]([H:8])[H:11],86.68066274525759
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1](=[O+:2][C:3]([C:5]([H:14])([H:15])[H:16])=[C:6]=[N-:7])([H:8])[H:10].[C:4]([H:9])([H:11])([H:12])[H:13],90.92557191769407
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:11])[C:3](=[C:5]=[C:6]([H:10])[H:12])[O:4]1)([H:7])([H:8])[H:9],90.47036578567308
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]([C:5](=[O:6])[H:15])([H:14])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],58.9171625439758
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[C:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])=[C:5]=[C:6]([H:12])[H:16])([H:10])[H:11])([H:7])([H:8])[H:9],77.7521866498114
[O+:1](=[C:2]=[C:5]=[N-:6])[C:3]#[N:4]>>[O:1]=[C:2]([C:3]#[N:4])[C:5]#[N:6],30.496878474272208
[C:1]([C:2](=[C:3]=[N:4][H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]#[N:4])([H:8])[H:9])([H:5])([H:6])[H:7],68.9806189060733
